US04724273
In a glass vessel pre-conditioned by heating under vacuum and filled with argon 0.34 g (1.24 mmol) of bis(cyclooctadiene-1,5)nickel and 0.46 g (1.25 mmol) of bis(trimethylsilyl)amino-bis(trimethylsilylimino)phosphorane were dissolved in 20 ml of decene-1, and the solution was stirred at 0° C. for 3 hours. Then to the gel-like mass there were added 20 ml of hexene-1, and the mixture was stirred at 0° C. for another 4 hours. After a working-up procedure as described in Example 1 there were obtained 24.0 g (85% of the total amount) of a decene-1/hexene-1 block copolymer which had a methyl branching point characteristic corresponding to the molar ratio of the α-olefin reactants (Mn =1 900).

reactant | bis(trimethylsilyl)amino-bis(trimethylsilylimino)phosphorane | 1.25 mmol, 0.46 g | C[Si](C)(C)N([Si](C)(C)C)P(=N[Si](C)(C)C)=N[Si](C)(C)C | C12H36N3PSi4
reactant | hexene-1 | 20 ml | CCCCC=C | C6H12
solvent | decene-1 | 20 ml | CCCCCCCCC=C | C10H20
product | decene-1 hexene-1 | CCCCCCCCC=C.CCCCC=C | InChI=1S/C10H20.C6H12/c1-3-5-7-9-10-8-6-4-2;1-3-5-6-4-2/h3H,1,4-10H2,2H3;3H,1,4-6H2,2H3
